US05352687
tert-Butyl 2-(4-bromomethyl-phenyl)-2-cyclopentyl-acetate
27.4 g (0.1 mol) of tert-butyl 2-cyclopentyl-2-(4-methyl-phenyl)-acetate are dissolved in 200 ml of carbon tetrachloride and the solution is heated to boiling. After addition of 0.82 g of azobisisobutyronitrile, 18.7 g (0.105 mol) of N-bromosuccinimide are added in portions and the mixture is then refluxed for 1 h, cooled to 0° C. and filtered off from the succinimide. After concentration of the filtrate the product precipitates. It is washed with petroleum ether (40:60) and dried. Yield: 20 g (57% of theory) Solidification point 73°-76° C.

reactant | tert-butyl 2-cyclopentyl-2-(4-methyl-phenyl)-acetate | 0.1 mol, 27.4 g | C1(CCCC1)C(C(=O)OC(C)(C)C)C1=CC=C(C=C1)C | C18H26O2
reactant | azobisisobutyronitrile | 0.82 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | N-bromosuccinimide | 0.105 mol, 18.7 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 200 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | tert-Butyl 2-(4-bromomethyl-phenyl)-2-cyclopentyl-acetate | BrCC1=CC=C(C=C1)C(C(=O)OC(C)(C)C)C1CCCC1 | C18H25BrO2
